US05554607
3-(2,6-dimethylphenyl)-1-(prop-2-ynyl)-2-thioxo-imidazolidin-4-one
A mixture of ethyl N-propargylaminoacetate (14.1 g), 2,6-dimethylphenylisothiocyanate (16.3 g), triethylamine (10.1 g), and methylene chloride (150 mL) was heated at reflux for 3 hours. The reaction mixture was cooled to ambient temperature, washed with 1N HCl (100 mL), then with water. The organic layer was separated, dried over anhydrous magnesium sulfate, then evaporated to dryness. The residual oil was triturated with hexane. The solid w, as collected by filtration. Recrystallization from hexane-EtOAc afforded the title compound (12.5 g) as yellow solid, m.p. 117°-121° C. Anal. Calcd. for. C14H14N2S2O: C, 65.09; H, 5.46; N, 10.84. Found: C, 65.23; H, 5.43; N, 10.88. Mass spectrum (EI, M.+) m/z 258.

reactant | ethyl N-propargylaminoacetate | 14.1 g | C(C#C)NCC(=O)OCC | C7H11NO2
reactant | 2,6-dimethylphenylisothiocyanate | 16.3 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,6-dimethylphenyl)-1-(prop-2-ynyl)-2-thioxo-imidazolidin-4-one | 12.5 g | CC1=C(C(=CC=C1)C)N1C(N(CC1=O)CC#C)=S | C14H14N2OS
